US07323472B2
4-(2,6-Difluoro-phenylamino)-6-(4-fluoro-2-methyl-phenyl)-2-methylsulfanyl-pyrimidine-5-carbaldehyde
Prepared as described above in Example 11 starting from 4-chloro-6-(2,6-difluoro-phenylamino)-2-methylsulfanyl-pyrimidine-5-carbaldehyde and 4-fluoro-2-methyl-phenylboronic acid to give the title compound 4-(2,6-difluoro-phenylamino)-6-(4-fluoro-2-methyl-phenyl)-2-methylsulfanyl-pyrimidine-5-carbaldehyde. 1H-NMR: δ 2.21 (s, 3H), 2.25 (s, 3H), 6.95 (m, 4H), 7.18 (m, 4H), 9.54 (s, 1H), 10.29 (br s, 1H). LC MS (m/e)=390 (MH+).

reactant | 4-chloro-6-(2,6-difluoro-phenylamino)-2-methylsulfanyl-pyrimidine-5-carbaldehyde | ClC1=NC(=NC(=C1C=O)NC1=C(C=CC=C1F)F)SC | C12H8ClF2N3OS
reactant | 4-fluoro-2-methyl-phenylboronic acid | FC1=CC(=C(C=C1)B(O)O)C | C7H8BFO2
product | 4-(2,6-difluoro-phenylamino)-6-(4-fluoro-2-methyl-phenyl)-2-methylsulfanyl-pyrimidine-5-carbaldehyde | FC1=C(C(=CC=C1)F)NC1=NC(=NC(=C1C=O)C1=C(C=C(C=C1)F)C)SC | C19H14F3N3OS
